US09303012B2
(6-Chloro-5-cyclopropylmethoxy-pyridin-2-yl)-(4,4-dimethyl-oxazolidin-3-yl)-methanone
The title compound was synthesized in analogy to Example 47 b, using the mixture of 6-cyclopropylmethoxy-5-trifluoromethoxy-pyridine-2-carboxylic acid and 6-chloro-5-cyclopropylmethoxy-pyridine-2-carboxylic acid (Example 47 a, 50 mg, 180 μmol) and 4,4-dimethyl-oxazolidine (CAN 51200-87-4; 28.4 μl (75%), 198 μmol) as starting materials and isolated (13 mg, 23%) as colorless oil; LC-MS (UV peak area, ESI) 100%, 311.1158 [MH+].

reactant | 6-cyclopropylmethoxy-5-trifluoromethoxy-pyridine-2-carboxylic acid | C1(CC1)COC1=C(C=CC(=N1)C(=O)O)OC(F)(F)F | C11H10F3NO4
reactant | 6-chloro-5-cyclopropylmethoxy-pyridine-2-carboxylic acid | ClC1=C(C=CC(=N1)C(=O)O)OCC1CC1 | C10H10ClNO3
reactant | 4,4-dimethyl-oxazolidine | 198 μmol, 28.4 μl | CC1(NCOC1)C | C5H11NO
product | (6-Chloro-5-cyclopropylmethoxy-pyridin-2-yl)-(4,4-dimethyl-oxazolidin-3-yl)-methanone | ClC1=C(C=CC(=N1)C(=O)N1COCC1(C)C)OCC1CC1 | C15H19ClN2O3
